US07153855B2
In a similar manner as described in Example 1 from ethyl 3-bromo-4-chlorobenzoate (42.6 g, 171 mmol) and 6-chloro-2-picoline (18.7 mL, 171 mmol), 1-(3-bromo-4-chlorophenyl)-2-(-6-chloro-2-pyridinyl)ethanone was obtained as a pale yellow solid existing as a mixture of ketone and enol tautomers. 1H NMR (CDCl3) of ketone: δ 8.30 (d, 1H), 7.92 (dd, 1H), 7.69–7.54 (m, 2H), 7.24 (m, 2H), 4.42 (s, 2H); MS m/z 344 (M+1).

reactant | ethyl 3-bromo-4-chlorobenzoate | 171 mmol, 42.6 g | BrC=1C=C(C(=O)OCC)C=CC1Cl | C9H8BrClO2
reactant | 6-chloro-2-picoline | 171 mmol, 18.7 mL | ClC1=CC=CC(=N1)C | C6H6ClN
product | 1-(3-bromo-4-chlorophenyl)-2-(-6-chloro-2-pyridinyl)ethanone | BrC=1C=C(C=CC1Cl)C(CC1=NC(=CC=C1)Cl)=O | C13H8BrCl2NO
